US04861773
A stirred melt of 5-fluoro-2-methyl-1-indanone (4.9 g) and imidazole (9.8 g) was heated under nitrogen at 175° C. for 2 hours. The warm melt was diluted with ethyl acetate (100 ml), the resulting solution extracted with dilute hydrochloric acid, and the acidic extract treated with potassium carbonate to pH 6. Extraction of the mixture with ethyl acetate with dichloromethane failed to dissolve all of the solids and the mixture was filtered to remove a solid by-product, 5-(1H-imidazol-1-yl)-2-methyl-1H-inden-1-one, 0.92 g, m.p. 215°-217° C. (from toluene). The combined aqueous and organic solutions were evaporated to leave an aqueous mixture which deposited a sticky solid; further product was obtained by ethyl acetate extraction. The combined crude product (5.36 g) was purified by medium pressure column chromatography (silica gel, chloroform) to give 5-(1H-imidazol-1-yl)-2-methyl-1-indanone, 3 g (47%), m.p. 103°-106° C., which was used directly in the next stage.

reactant | 5-fluoro-2-methyl-1-indanone | 4.9 g | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
reactant | imidazole | 9.8 g | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1H-imidazol-1-yl)-2-methyl-1-indanone | N1(C=NC=C1)C=1C=C2CC(C(C2=CC1)=O)C | C13H12N2O
